US05093320
After suspending 3.3 g (11.0 mmol) of H-Thr(tBu)-OtBu.oxalate in 60 ml of ether, the suspension is shaken with 30 ml of 5% aqueous potassium hydrogenocarbonate solution until dissolving. The organic phase is separated, washed with an additional 20 ml of 5% aqueous potassium hydrogenocarbonate solution and then with 20 ml of water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. To the solution of the oily residue in 20 ml of DMF, 4.12 g (9.5 mmol) of Z-Glu(OtBu)-OSu are added. The mixture is stirred at room temperature for 2 hours then evaporated under reduced pressure. The residue is dissolved in 50 ml of ethyl acetate and successively washed three times, three times with 15 ml of 10% aqueous citric acid solution each, twice with 15 ml of 5% aqueous sodium hydrogenocarbonate solution each, and finally with 15 ml of water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. 4.4 g (8.0 mmol) of oily Z-Glu(OtBu)-Thr(tBu)-OtBu protected dipeptide (Rf1 =0.85) are obtained which is dissolved in 50 ml of methanol and hydrogenated as described in Example 1. After filtering off the catalyst, the filtrate is evaporated to yield the free H-Glu(Ot -Bu)-Thr(tBu) -OtBu dipeptide (Rf2 =0.22) which is then dissolved in 20 ml of DMF and after adding 4.77 g (10 mmol) of Z-Lys(Boc) -OSu, the reaction mixture is stirred at room temperature for 2 hours and evaporated under reduced pressure. After dissolving the oily residue in 50 ml of ethyl acetate, the solution is purified by several washings in the usual manner, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The oily evaporation residue is recrystallized in ether to yield 4.75 g (74%) of Z-Lys(Boc)-Glu(OtBu)-Thr(tBu)-OtBu protected tripeptide, m.p.: 114°-115° C.; Rf2 =0.80; /α/D20 = -22.8° (c=1, methanol).

reactant | H-Thr(tBu)-OtBu | 11.0 mmol, 3.3 g | N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC(C)(C)C | C12H25NO3
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
reactant | potassium | 30 ml | [K] | K
reactant | Z-Glu(OtBu)-OSu | 9.5 mmol, 4.12 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C21H26N2O8
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Z-Glu(OtBu)-Thr(tBu)-OtBu | 8.0 mmol, 4.4 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H]([C@H](OC(C)(C)C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C29H46N2O8
